US08212048B2
A Teflon-coated magnetic stirring rod was placed in a 10 mL two-necked flask which was then equipped with a reflux condenser. The reflux condenser was connected to a pressure reduced/nitrogen line and the whole apparatus was dried with heating under reduced pressure. Thereafter, N2 gas was charged in the reaction apparatus and the whole reaction apparatus was purged with nitrogen. The reaction vessel was left to cool to room temperature, then, Ru(cod)(cot) complex (0.05 mmol, 15.8 mg), 2-phenylpyridine (1 mmol, 155.2 mg), styryl acetate (5 mmol, 811.0 mg) and toluene (1.5 mL) were added. The mixture was heated by an oil bath and reacted under reflux condition for 72 hours. 72 hours after, the reaction solution was left to cool to room temperature, then, triethylamine (0.3 mL) was added to make it basic, and the reaction mixture was purified by silica gel column chromatography (i.d.=30 mm; length=170-250 mm; hexane:EtOAc:Et3N=8:1:0.1; 25 mL each). A subject substance 2-(2,6-distyrylphenyl)-pyridine was obtained with a yield of 93%.

reactant | 2-phenylpyridine | 1 mmol, 155.2 mg | C1(=CC=CC=C1)C1=NC=CC=C1 | C11H9N
reactant | styryl acetate | 5 mmol, 811.0 mg | C(C)(=O)OC=CC1=CC=CC=C1 | C10H10O2
reactant | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
product | 2-(2,6-distyrylphenyl)-pyridine | yield of 93% | C(=CC1=CC=CC=C1)C1=C(C(=CC=C1)C=CC1=CC=CC=C1)C1=NC=CC=C1 | C27H21N
